US06953855B2
The saturated alcohol intermediates, such as 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-ol, can also serve as templates for compound libraries. For instance, ethers can be generated from these alcohols, for example, using either Mitsunobu or Williamson conditions. Thus, by way of example, when 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-ol is reacted with phenol via Mitsunobu coupling with diethylazidocarboxylate and triphenylphosphine (Guthrie et al., J. Chem. Soc., Perkin Trans I 45: 2328 (1981)), 3-phenoxy-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane results. Similarly, when 2-((3-pyridinyl)methylene)-1-azabicyclo[2.2.2]octan-3-ol is treated with sodium hydride and methyl iodide, the unsaturated ether, 3-methoxy-2-((3-pyridinyl)methylene)-1-azabicyclo[2.2.2]octane, is formed. This gives the saturated ether, 3-methoxy-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane (predominantly cis), upon catalytic hydrogenation.

reactant | 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-ol | N1=CC(=CC=C1)CC1N2CCC(C1O)CC2 | C13H18N2O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-phenoxy-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane | O(C1=CC=CC=C1)C1C(N2CCC1CC2)CC=2C=NC=CC2 | C19H22N2O
reactant | 2-((3-pyridinyl)methylene)-1-azabicyclo[2.2.2]octan-3-ol | N1=CC(=CC=C1)C=C1N2CCC(C1O)CC2 | C13H16N2O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | ether | CCOCC | C4H10O
product | 3-methoxy-2-((3-pyridinyl)methylene)-1-azabicyclo[2.2.2]octane | COC1C(N2CCC1CC2)=CC=2C=NC=CC2 | C14H18N2O
